US09315458B2
A) methyl 5-(4-(difluoromethoxy)benzyl)-2-hydroxy-3,4-dimethylbenzoate
To a solution of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.60 g) in DME (12.0 mL) were added 1-(bromomethyl)-4-(difluoromethoxy)benzene (0.47 g), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.16 g) and 2 mol/L aqueous sodium carbonate solution (1.96 mL), and the mixture was stirred overnight at 80° C. under argon atmosphere. Water and ethyl acetate were added thereto, the mixture was allowed to be cooled to room temperature, and the precipitate was removed by filtration. The filtrate was extracted with ethyl acetate, the organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.60 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.60 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 1-(bromomethyl)-4-(difluoromethoxy)benzene | 0.47 g | BrCC1=CC=C(C=C1)OC(F)F | C8H7BrF2O
reactant | sodium carbonate | 2 mol/L, 1.96 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DME | 12.0 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.16 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(4-(difluoromethoxy)benzyl)-2-hydroxy-3,4-dimethylbenzoate | 0.60 g | FC(OC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)O)C)C)C=C1)F | C18H18F2O4
